US05104885
A stirred mixture of 6-methoxy-4-methyl-8-nitro-5-(9-phenylnonoxy) quinoline (11 g, 0.025 mol), degreased 40 mesh Fe filings (30 g), H2O (100 ml), HOAc (20 ml) and n-Bu2O (20 ml) was heated at 80° C. for 2 h, cooled and filtered. The solid residue and the filtrate were thoroughly extracted with warm Et2O and the combined extracts were dried (Na2SO4), treated with Darco, and concentrated. The resulting solid was dissolved in pet ether (Darco) and cooled in dry ice - Me2CO to give 6.5 g (64%) of 8-amino-6-methoxy-4-methyl-5-(9-phenylnonoxy) quinoline as pale yellow crystals, mp 32°-32.5° C.

reactant | 6-methoxy-4-methyl-8-nitro-5-(9-phenylnonoxy) quinoline | 0.025 mol, 11 g | COC=1C(=C2C(=CC=NC2=C(C1)[N+](=O)[O-])C)OCCCCCCCCCC1=CC=CC=C1 | C26H32N2O4
reactant | H2O | 100 ml | O | H2O
reactant | n-Bu2O | 20 ml | O(CCCC)CCCC | C8H18O
catalyst | Fe | [Fe] | Fe
solvent | HOAc | 20 ml | CC(=O)O | C2H4O2
product | 8-amino-6-methoxy-4-methyl-5-(9-phenylnonoxy) quinoline | 6.5 g, 64% | NC=1C=C(C(=C2C(=CC=NC12)C)OCCCCCCCCCC1=CC=CC=C1)OC | C26H34N2O2
